US07335658B2
{6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZIN-3-YL}CARBAMIC ACID ETHYL ESTER
Following the procedure of Example 7, making variations only as required to use ethyl chloroformate in place of n-butyl chloroformate to react with [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)methanone, the title compound was obtained as a light yellow solid (35% yield). 1H NMR (300 MHz, DMSO-d6) δ 10.30, 7.82-7.85, 7.76, 7.67, 7.52, 7.37, 4.15, 3.15-3.85, 1.10. MS (ES+) m/z 424 (M+1).

reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)methanone | NC1=CC=C(N=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C16H16F3N5O
product | {6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZIN-3-YL}CARBAMIC ACID ETHYL ESTER | C(C)OC(NC=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O)=O | C19H20F3N5O3
